US05747496
a) 2-(Pentylthio)-4,6(1H,5H)-pyrimidinedione
To a solution of 4,6-dihydroxy-2-mercaptopyrimidine (14.4 g) in 2N sodium hydroxide solution (100 ml) was added pentyl iodide (15.6 ml) in ethanol (25 ml) and the resulting reaction mixture stirred at room temperature for four days. The ethanol was removed at reduced pressure and N,N-dimethylformamide (80 ml) and pentyl iodide (1.56 ml) added then the reaction mixture stirred for an additional 16 hours. The solution was made acidic by addition of 2N HCl solution and the aqueous layer decanted. The remaining gum was dissolved in methanol and evaporated to dryness then azeotroped with toluene (×2). The solid was triturated with ether, filtered and dried to give the subtitle compound as a white solid (11.9 g).

reactant | 4,6-dihydroxy-2-mercaptopyrimidine | 14.4 g | OC1=NC(=NC(=C1)O)S | C4H4N2O2S
reactant | pentyl iodide | 15.6 ml | C(CCCC)I | C5H11I
solvent | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(Pentylthio)-4,6(1H,5H)-pyrimidinedione | 11.9 g | C(CCCC)SC=1NC(CC(N1)=O)=O | C9H14N2O2S
